US08624034B2
Step B). Template 2 (T2): Ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate
Cesium carbonate (1.77 g, 5.44 mmol) was added to a suspension of 5-fluoro-4-iodopyridin-2(1H)-one (1.00 g, 4.2 mmol) and ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate (1.56 g, 5.44 mmol) in anhydrous THF (45 mL). The reaction was heated to 70° C. and stirred at this temperature overnight. The reaction was quenched with water (100 mL) and extracted with EtOAc (2×100 mL). The combined organics were washed with brine (100 mL), dried (MgSO4), filtered, and concentrated. The crude product was purified via flash chromatography using a Varian SF15-24 g column and an eluent of EtOAc in n-heptane (30-80%) to afford the title compound as a yellow residue (691 mg, 37%). MS (LCMS) m/z 446.0 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36 (t, 3H) 1.75 (s, 3H) 2.37-2.57 (m, 2H) 3.10 (s, 3H) 3.83-4.02 (m, 1H) 4.16-4.37 (m, 3H) 7.15 (d, 1H) 7.20 (d, J=3.32 Hz, 1H).

reactant | Cesium carbonate | 5.44 mmol, 1.77 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-fluoro-4-iodopyridin-2(1H)-one | 4.2 mmol, 1.00 g | FC=1C(=CC(NC1)=O)I | C5H3FINO
reactant | ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 5.44 mmol, 1.56 g | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | Ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)I | C13H17FINO5S
